US07906655B2
EDCI.HCl (2.348 g, 12.25 mmol) was added to a mixture of 4-bromobenzene-1,2-diamine (2.078 g, 11.11 mmol), N-Boc-L-proline (2.311 g, 10.74 mmol) and 1-hydroxybenzotriazole (1.742 g, 12.89 mmol) in CH2Cl2 (40 mL), and stirred at ambient conditions for 19 h. The mixture was then diluted with CH2Cl2, washed with water (2×), dried (brine; MgSO4), filtered, and concentrated in vacuo to provide a brown foam. Acetic acid (40 mL) was added to the foam, and the mixture was heated at 65° C. for 90 min. The volatile component was removed in vacuo, and the residue was dissolved in EtOAc and washed carefully with saturated NaHCO3 solution (2×), and the organic phase was dried (brine; MgSO4), filtered, and concentrated in vacuo. The resultant crude material was submitted to flash chromatography (silica gel; EtOAc) to provide benzimidazole M1a as a tan foam (2.5 g). 1H NMR (DMSO-d6, δ=2.5 ppm, 400 MHz): 12.49-12.33 (four br s, 1H), 7.71 (d, J=2, 0.54H), 7.60 (app br s, 0.46H), 7.50 (d, J=8.6, 0.45H), 7.40 (d, J=8.4, 0.55H), 7.26 (m, 1H), 4.96-4.87 (m, 1H), 3.64-3.51 (m, 1H), 3.44-3.38 (m, 1H), 2.38-2.21 (m, 1H), 1.99-1.85 (m, 3H), 1.39 (s, 3.7H), 1.06 (s, 5.3H). LC/MS: Anal. Calcd. for [M+H]+ C16H2181BrN3O2; 368.03. found: 368.18.

reactant | EDCI.HCl | 12.25 mmol, 2.348 g | CCN=C=NCCCN(C)C.Cl
reactant | 4-bromobenzene-1,2-diamine | 11.11 mmol, 2.078 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
reactant | N-Boc-L-proline | 10.74 mmol, 2.311 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 1-hydroxybenzotriazole | 12.89 mmol, 1.742 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | Acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
